US04134983
B. 2,6-Dichloro-4-(2,3 epoxypropoxy)benzaldehyde
To a stirred solution of 2,6-dichloro-4-hydroxy benzaldehyde (3.0 gm 0.0167 m) in 1.5 N sodium hydroxide (25 m) at 50° is added epichlorohydrin (4.4 gm, 0.048 m). After stirring at 50° for 3 hours, the solution is cooled and extracted with chloroform. The chloroform is dried over anhydrous sodium sulfate, filtered and concentrated to 2,6-dichloro-4-(2,3-epoxypropoxy)-benzaldehyde (3 g) which is used without further purification.

reactant | 2,6-dichloro-4-hydroxy benzaldehyde | 3.0 gm | ClC1=C(C=O)C(=CC(=C1)O)Cl | C7H4Cl2O2
reactant | epichlorohydrin | 4.4 gm | C(Cl)C1CO1 | C3H5ClO
solvent | sodium hydroxide | 1.5 N | [OH-].[Na+]
product | 2,6-Dichloro-4-(2,3 epoxypropoxy)benzaldehyde | ClC1=C(C=O)C(=CC(=C1)OCC1CO1)Cl | C10H8Cl2O3
